US07029700B2
FLM and PIN of Vancomycin
In this formulation, 1.0 g PLGA 50:50 RG 502 H was dissolved in 20 ml of methylene chloride, yielding a 3.33% w/v solution of the base polymer. Then, 0.20 g of Fe3O4 (8.47% w/w of the total) was blended, and 1.0 g of FAO was dissolved in 10 ml of acetone and blended at a loading of 42.38% w/w of the total. Vancomycin HCl (Sigma) was dispersed into the mixture by adding 0.7 ml of 227.3 mg/ml Vancomycin HCl in distilled water to 30 ml of polymer solution. The mixture was emulsified, frozen, and lyophilized as in Example 7. The resulting composition of the dry solids is shown in Table 15.

reactant | Vancomycin HCl | C[C@H]1[C@H]([C@@](C[C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H](O[C@H]2OC=3C4=CC5=CC3OC=6C=CC(=CC6Cl)[C@H]([C@H](C(=O)N[C@H](C(=O)N[C@H]5C(=O)N[C@@H]7C=8C=CC(=C(C8)C9=C(C=C(C=C9O)O)[C@H](NC(=O)[C@H]([C@@H](C=1C=CC(=C(C1)Cl)O4)O)NC7=O)C(=O)O)O)CC(=O)N)NC(=O)[C@@H](CC(C)C)NC)O)CO)O)O)(C)N)O.Cl
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | Vancomycin | C[C@H]1[C@H]([C@@](C[C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H](O[C@H]2OC=3C4=CC5=CC3OC=6C=CC(=CC6Cl)[C@H]([C@H](C(=O)N[C@H](C(=O)N[C@H]5C(=O)N[C@@H]7C=8C=CC(=C(C8)C9=C(C=C(C=C9O)O)[C@H](NC(=O)[C@H]([C@@H](C=1C=CC(=C(C1)Cl)O4)O)NC7=O)C(=O)O)O)CC(=O)N)NC(=O)[C@@H](CC(C)C)NC)O)CO)O)O)(C)N)O | C66H75Cl2N9O24
